US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide
Methanesulfonic acid 2-(4-{2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-ethyl ester (1 equiv) was dissolved in acetonitrile and treated with potassium carbonate (1.5 equic) and morpholine (3 equiv). The reaction was heated to 65° C. for 18 h and quenched with water, extracted with methylene chloride, dried, and concentrated. The residue was purified by column chromatography to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.0, 18.9, 36.0, 43.1, 45.1, 53.1, 53.9, 58.9, 67.1, 102.6, 102.9, 107.9, 112.3, 112.6, 133.5, 137.6, 139.0, 161.0, 162.0, 169.3, 169.4; MS m/z 450.1 (M+1).

reactant | Methanesulfonic acid 2-(4-{2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-ethyl ester | 1 equiv | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)NC=1N=CN(C1)CCOS(=O)(=O)C)CCC | C19H24F2N4O5S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 3 equiv | N1CCOCC1 | C4H9NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | N1(CCOCC1)CCN1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C22H29F2N5O3
